US05359077
Tetrahydrofuroyl chloride (15.0 g, 112 mmol) was added dropwise to a cold solution of benzyl alcohol (10.9 g, 101 mmol) and pyridine (20.0 g, 253 mmol) in Et2O (200 mL). The solution was stirred at 0° for 40 minutes, then filtered to remove the side product pyridine hydrochloride. The filtrate was washed with 0.1M HCl (50 mL), saturated aqueous NaHCO3 (50 mL), and brine (50 mL), and then dried over MgSO4. Filtration and evaporation of the solvent gave a yellow oil, which was distilled. Benzyl tetrahydrofuroate was obtained as a colorless oil (21.1 g), b.p. 118° to 120° at 0.5 mm Hg. Microanalysis calc'd for C12H14O3 (206.2): C, 69.89; H, 6.84; O, 23.27; Found: C, 69.62; H, 6.89.

reactant | Tetrahydrofuroyl chloride | 112 mmol, 15.0 g | O1C(CCC1)C(=O)Cl | C5H7ClO2
reactant | benzyl alcohol | 101 mmol, 10.9 g | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 253 mmol, 20.0 g | N1=CC=CC=C1 | C5H5N
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | Benzyl tetrahydrofuroate | O1C(CCC1)C(=O)OCC1=CC=CC=C1 | C12H14O3
